US08349880B2
Methyl 3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide (0.578 g, 1.471 mmol), from preparation Q) and 5-chloro-2-(4-(trifluoromethoxy)phenyl)pentanoic acid (0.480 g, 1.62 mmol, from preparation AAK) were coupled [N-methylmorpholine (0.81 mL, 7.36 mmol) was substituted for N,N-diisopropylethylamine] and then reacted with hydrazine (0.185 mL, 5.88 mmol) using a procedure analogous to Step A of Example 13. After an aqueous workup, 5-(4-chloro-1-(4-(trifluoromethoxy)phenyl)butyl)-N-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine was obtained as a brown residue. The crude product was used in the next step without purification. LC-MS (M+H)+ 510.1.

reactant | Methyl 3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide | 1.471 mmol, 0.578 g | I.FC=1C=C(C=CC1N1N=C(N=C1)C)NC(=N)SC
reactant | 5-chloro-2-(4-(trifluoromethoxy)phenyl)pentanoic acid | 1.62 mmol, 0.480 g | ClCCCC(C(=O)O)C1=CC=C(C=C1)OC(F)(F)F | C12H12ClF3O3
reactant | N-methylmorpholine | 7.36 mmol, 0.81 mL | CN1CCOCC1 | C5H11NO
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrazine | 5.88 mmol, 0.185 mL | NN | H4N2
product | 5-(4-chloro-1-(4-(trifluoromethoxy)phenyl)butyl)-N-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine | ClCCCC(C1=CC=C(C=C1)OC(F)(F)F)C1=NC(=NN1)NC1=CC(=C(C=C1)N1N=C(N=C1)C)F | C22H20ClF4N7O
